US07241760B2
2-[4-(3-Chloro-phenylethynyl)-2-methyl-imidazol-1-yl]-pyrimidine
4-(3-Chloro-phenylethynyl)-2-methyl-1H-imidazole (200 mg, 0.92 mmol) was dissolved in 5 mL dimethyl formamide. Potassium carbonate (255 mg, 1.85 mmol) and 2-chloro-pyrimidine (159 mg, 1.38 mmol) were added and the reaction mixture was stirred at 80° C. overnight. The reaction mixture was poured into 70 mL water and extracted three times with ethyl acetate (100 mL each). The combined organic extracts were dried with sodium sulfate, filtered and evaporated. The crude product was recrystallized from diisopropyl ether and the desired compound was obtained as an off-white solid (212 mg, 78%), MS:m/e=295.1 (M+H+).

reactant | 4-(3-Chloro-phenylethynyl)-2-methyl-1H-imidazole | 0.92 mmol, 200 mg | ClC=1C=C(C=CC1)C#CC=1N=C(NC1)C | C12H9ClN2
reactant | Potassium carbonate | 1.85 mmol, 255 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-pyrimidine | 1.38 mmol, 159 mg | ClC1=NC=CC=N1 | C4H3ClN2
reactant | water | 70 mL | O | H2O
solvent | dimethyl formamide | 5 mL | CN(C=O)C | C3H7NO
product | 2-[4-(3-Chloro-phenylethynyl)-2-methyl-imidazol-1-yl]-pyrimidine | ClC=1C=C(C=CC1)C#CC=1N=C(N(C1)C1=NC=CC=N1)C | C16H11ClN4
